US08193236B2
5-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-pyrazolo[1,5-a]pyridine
A solution of O-mesitylenesulfonylhydroxylamine (18.6 g, 77.8 mmol, 5.0 equiv) in chloroform (50 ml) is added at 0-10° C. to a solution of 4-(tert-butyl-diphenyl-silanyloxymethyl)-2-prop-1-ynyl-pyridine in chloroform (50 ml). The resulting mixture is stirred at room temperature overnight. The solvent is removed in vacuo, and N,N-dimethylformamide (50 ml) is added to the residue. Potassium carbonate (4.30 g, 31.1 mmol, 2.0 equiv) is added, and the mixture is stirred at room temperature for 2 hours. The reaction mixture is diluted with water and extracted three times with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification via flash chromatography (gradient from hexane/EtOAc 100:0 to 30:70) affords the title compound (2.6 g, 42%). 1H NMR (400 MHz, d6-DMSO): δ=8.42 (d, J=7.1 Hz, 1H), 7.60-7.58 (m, 4H), 7.43-7.35 (m, 7H), 6.64 (dd, J=7.3/1.9 Hz, 1H), 6.27 (s, 1H), 4.71 (s, 2H), 2.30 (s, 3H), 0.99 (s, 9H). MS (ES+): 401 (M+H)+.

reactant | O-mesitylenesulfonylhydroxylamine | 77.8 mmol, 18.6 g, 5.0 equiv | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | 4-(tert-butyl-diphenyl-silanyloxymethyl)-2-prop-1-ynyl-pyridine | C(C)(C)(C)[SiH2]OC(C1=CC(=NC=C1)C#CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27NOSi
reactant | Potassium carbonate | 31.1 mmol, 4.30 g, 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 5-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-pyrazolo[1,5-a]pyridine | 2.6 g, 42% | C(C)(C)(C)[SiH2]OC(C1=CC=2N(C=C1)N=C(C2)C)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H28N2OSi
